*/home/antoine/circuits/pnp-hf/pnp-hf.oregano

*----------------------------------------------
*	GNUCAP - NETLIST
.options OUT=120 
*------------- Models -------------------------
.include /usr/share/oregano/models/PNP.model
.model 2N3906 PNP(IS=1E-14 VAF=100 BF=200 IKF=0.4 XTB=1.5 BR=4 CJC=4.5E-12 CJE=10E-12 RB=20 RC=0.1 RE=0.1 TR=250E-9 TF=350E-12 ITF=1 VTF=2 XTF=3)



*------------- Circuit Description-------------
V1 0 2 dc 0.0 ac 1.0 sin(0.0 1.0 1.0 0 0) 
V2 5 0 dc 5V
RS 2 3 20 
CS 3 4 10u
RB1 4 5 1k
RB2 4 0 1k
RC1 0 1 200
R_E1 7 5 500
R_E2 6 7 20
CE 5 7 1u

* c b e
Q_Q1 1 4 6 2N3906

.end